US04444772
2-Chloro-5-methyl-3-nitro-pyridine (20 g) was reacted with 2-(3-cyanopropyl)malonic acid diethyl ester under conditions analogous to those in Example 1(a). The reaction mixture was partitioned between water and chloroform, the chloroform extract was dried, treated with charcoal and filtered through a silica bed and then evaporated to dryness to give 2-[4-cyano-1,1-dicarbethoxybutyl]-3-nitro-5-methylpyridine (18.3 g) as a yellow oil. N.M.R. (CDCl3) assignment, δ(p.p.m.), multiplicity; CO2CH2CH3 ×2, 1.2, t; --CH2CH2CH2CN, 1.3-2.0, m; --CH2CN, 2.37, m; 5-methylpyridyl, 2.49, s; CO2CH2CH3 ×2, 4.19, q; 4-pyridyl proton 8.17, m; 6-pyridyl proton, 8.57, m;

reactant | 2-Chloro-5-methyl-3-nitro-pyridine | 20 g | ClC1=NC=C(C=C1[N+](=O)[O-])C | C6H5ClN2O2
reactant | 2-(3-cyanopropyl)malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)CCCC#N)=O | C11H17NO4
product | 2-[4-cyano-1,1-dicarbethoxybutyl]-3-nitro-5-methylpyridine | 18.3 g | C(#N)CCCC(C(=O)OCC)(C(=O)OCC)C1=NC=C(C=C1[N+](=O)[O-])C | C17H21N3O6
